US07772233B2
5-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-pyridine-2-carboxylic acid amide
To 5-fluoro-3-(2-fluoro-4-iodo-phenylamino)-pyridine-2-carbonitrile (50 mg, 0.14 mmol) in THF (0.7 mL) was added potassium trimethylsilanolate (40 mg, 0.28 mmol). The mixture was heated in sealed tube at 100° C. overnight. The mixture was then concentrated and purified by HPLC to afford the pure product. LC/MS [6.90 min; 376 (M+1)].

reactant | 5-fluoro-3-(2-fluoro-4-iodo-phenylamino)-pyridine-2-carbonitrile | 0.14 mmol, 50 mg | FC=1C=C(C(=NC1)C#N)NC1=C(C=C(C=C1)I)F | C12H6F2IN3
reactant | potassium trimethylsilanolate | 0.28 mmol, 40 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-pyridine-2-carboxylic acid amide | FC=1C=C(C(=NC1)C(=O)N)NC1=C(C=C(C=C1)I)F | C12H8F2IN3O
